US05856517
1-methyl-1H-indole-5-carbonitrile, a known compound, (0.4 g, 2.55 mmole) was dissolved in ethyl ether (25 mL), chilled in an ice bath and treated with oxalyl chloride (0.35 mL, 4.0 mmole, 1.6 equiv.). This mixture was stirred at room temperature overnight, then the solvent was removed by evaporation, and evaporated from CH2Cl2 again. This residue along with 2-(1-methyl-1H-indol-3yl)-acetimidic acid isopropyl ester hydrochloride (0.68 g, 2.55 mmole, 1 equiv.) was suspended in CH2Cl2 (50 mL) and cooled in an ice bath. The mixture was treated with triethylamine Et3N (1.4 mL, 10 mmole, 4 equiv.) stirred at 0° for 30 minutes, then at room temperature for an additional 3 hours. The reaction mixture was then diluted with CH2Cl2 (100 mL), washed with H2O (25 mL), and then 0.5N HCl (25 mL). The organic fractions were dried over MgSO4, filtered and evaporated to give a dark oil. The residue was taken up in toluene (50 mL), chilled in an ice bath, then treated with pTsOH (0.53 g, 2.8 mmole, 1.1 equiv.), then stirred at room temperature overnight. The toluene was evaporated, and the residue dissolved in CH2Cl2 (100 mL), then washed with saturated NaHCO3 (30 mL), H2O (30 mL), and brine (30 mL). The organic layer was dried over MgSO4, filtered and evaporated, then purified by flash column chromatography (10% ethyl acetate (EtOAc)/Hexane). The product was further purified by washing with cold CH2Cl2 to provide 0.43 g of 1-methyl-3-[4-(1-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3yl]-1H-indole-5-carbonitrile.

reactant | 1-methyl-1H-indole-5-carbonitrile | CN1C=CC2=CC(=CC=C12)C#N | C10H8N2
reactant | oxalyl chloride | 4.0 mmole, 0.35 mL, 1.6 equiv. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(1-methyl-1H-indol-3yl)-acetimidic acid isopropyl ester hydrochloride | 2.55 mmole, 0.68 g, 1 equiv. | Cl.C(C)(C)OC(CC1=CN(C2=CC=CC=C12)C)=N
reactant | triethylamine Et3N | 10 mmole, 1.4 mL, 4 equiv. | C(C)N(CC)CC.CCN(CC)CC | 2C6H15N
reactant | pTsOH | 2.8 mmole, 0.53 g, 1.1 equiv. | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | ethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-3-[4-(1-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3yl]-1H-indole-5-carbonitrile | 0.43 g | CN1C=C(C2=CC(=CC=C12)C#N)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C23H16N4O2
